US07902237B2
Preparation of 3-benzyl-5-[(N-methyl-phenylamino)-methylene]-2-thioxothiazolidin-4-one
To a mixture of TMOF-toluene (1:1, 6 mL, anhyd) was added N-methylaniline (0.33 mL, 3.0 mmol) and 3-benzylrhodanine (0.67 g, 3.0 mmol). After heating at reflux for 2 h, the reaction mixture was cooled, concentrated and chromatographed (silica gel, 0:100 to 40:60 EtOAc-Hex) to yield the title product (0.40 g, 39%) as a yellow solid. 1H-NMR (CDCl3): δ 7.79 (1H, s), 7.34-7.47 (5H, m), 7.17-7.31 (5H, m), 5.25 (2H, s), 3.54 (3H, s).

reactant | TMOF toluene | C[C@@H](C(=O)N1CCC[C@H]1C(=O)N2CCC[C@H]2C(=O)N3CCC[C@H]3C(=O)N4CCC[C@H]4C(=O)N5CCC[C@H]5C(=O)N6CCC[C@H]6C(=O)O)NC(=O)[C@@H]7CCCN7C(=O)[C@H](CC(=O)O)NC(=O)[C@H](CC8=CC=C(C=C8)O)N.C1(=CC=CC=C1)C
reactant | N-methylaniline | 3.0 mmol, 0.33 mL | CNC1=CC=CC=C1 | C7H9N
reactant | 3-benzylrhodanine | 3.0 mmol, 0.67 g | C(C1=CC=CC=C1)N1C(SCC1=O)=S | C10H9NOS2
product | 3-benzyl-5-[(N-methyl-phenylamino)-methylene]-2-thioxothiazolidin-4-one | 0.40 g, 39% | C(C1=CC=CC=C1)N1C(SC(C1=O)=CN(C)C1=CC=CC=C1)=S | C18H16N2OS2
